US06140351
In a manner similar to that described in Paragraph A above, N-(4-chlorophenyl)-2-[((4-(chloromethyl)-3-chlorothiophen-2-yl)carbonyl)amino]-5-chlorobenzamide (0.30 g, 0.64 mmol) reacted with sodium imidazole (0.17 g, 1.9 mmol) in DMF (10 mL) to afford N-(4-chlorophenyl)-2-[((3-chloro-4-((imidazol-1-yl)methyl)thiophen-2-yl)carbonyl)amino]-5-chlorobenzamide. Purification by HPLC on a C18 Dynamax column with acetonitrile in water gradient with 0.1% trifluoroacetic acid afforded two products: The earlier eluting material afforded N-(4-chlorophenyl)-2-[((3-chloro-4-((imidazol-1-yl)methyl)thiophen-2-yl)carbonyl)amino]-5-chlorobenzamide, trifluoroacetic acid salt as a cream-colored solid; NMR DMSO-d6 /TFA) 11.1 (s, 1), 10.8 (s, 1), 9.2 (s, 1), 8.3 (d, 1), 8.1 (s, 1), 7.9 (d, 1), 7.7 (m, 5), 7.4 d, 2), 5.4 (s, 2) ppm. The later eluting material afforded N-(4-chlorophenyl)-2-[((3-chloro-4-(hydroxymethyl)thiophen-2-yl)carbonyl)amino]-5-chlorobenzamide; as a white solid; NMR (DMSO-d6 /TFA) 11.1 (s, 1), 10.8 (s, 1), 8.3 (d, 1), 7.9 (d, 1), 7.8 (s, 1), 7.7 (d, 2), 7.6 (dd, 1), 7.4 (d, 2), 5.4 (br, 1), 4.4 (s, 2) ppm.

reactant | N-(4-chlorophenyl)-2-[((4-(chloromethyl)-3-chlorothiophen-2-yl)carbonyl)amino]-5-chlorobenzamide | 0.64 mmol, 0.30 g | ClC1=CC=C(C=C1)NC(C1=C(C=CC(=C1)Cl)NC(=O)C=1SC=C(C1Cl)CCl)=O | C19H12Cl4N2O2S
reactant | sodium imidazole | 1.9 mmol, 0.17 g | N1C=NC=C1.[Na]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N-(4-chlorophenyl)-2-[((3-chloro-4-((imidazol-1-yl)methyl)thiophen-2-yl)carbonyl)amino]-5-chlorobenzamide | ClC1=CC=C(C=C1)NC(C1=C(C=CC(=C1)Cl)NC(=O)C=1SC=C(C1Cl)CN1C=NC=C1)=O | C22H15Cl3N4O2S
